data/rdb19/train.csv
rxn,smiles,ea
4261,[C:16]([O:17][C:18]([C:19]([H:27])([H:28])[H:29])([C:20]([H:21])[H:22])[H:26])([H:23])([H:24])[H:25].[C:1]([O:2][C:3](=[O:4])[C:5](=[C:6]([H:11])[H:12])[C:7]([H:13])([H:14])[H:15])([H:8])([H:9])[H:10]>>[C:1]([O:2][C:3]([O:4])([C:5](=[C:6]([H:11])[H:12])[C:7]([H:13])([H:14])[H:15])[C:20]([C:18]([O:17][C:16]([H:23])([H:24])[H:25])([C:19]([H:27])([H:28])[H:29])[H:26])([H:21])[H:22])([H:8])([H:9])[H:10],26.590329059108623
4964,[C:15]([C:16](=[O:17])[O:18][C:19](=[C:20]([H:25])[H:26])[H:24])([H:21])([H:22])[H:23].[C:1]([C:2]([C:3]([H:4])[O:5][C:6]([H:12])([H:13])[H:14])([H:10])[H:11])([H:7])([H:8])[H:9]>>[C:1]([C:2](=[C:3]([H:4])[O:5][C:6]([H:12])([H:13])[H:14])[H:10])([H:7])([H:8])[H:9].[H:11][C:19]([O:18][C:16]([C:15]([H:21])([H:22])[H:23])=[O:17])([C:20]([H:25])[H:26])[H:24],37.34838262287667
5430,[C:19]([C:20]([C:21]([H:22])[H:23])([O:24][C:25](=[O:26])[C:27]([H:32])([H:33])[H:34])[H:31])([H:28])([H:29])[H:30].[C:1]([C:2]([C:3]([C:4]([H:14])([H:15])[H:16])([N:5]([C:6](=[O:7])[H:18])[H:17])[H:13])([H:11])[H:12])([H:8])([H:9])[H:10]>>[C:1]([H:8])([H:9])([H:10])[C:21]([C:20]([C:19]([H:28])([H:29])[H:30])([O:24][C:25](=[O:26])[C:27]([H:32])([H:33])[H:34])[H:31])([H:22])[H:23].[C:2]([C:3]([C:4]([H:14])([H:15])[H:16])([N:5]([C:6](=[O:7])[H:18])[H:17])[H:13])([H:11])[H:12],57.67335800779984
4605,[C:17]([C:18]([C:19]([C:20]([H:30])([H:31])[H:32])([N:21]([C:22](=[O:23])[H:34])[H:33])[H:29])([H:27])[H:28])([H:24])([H:25])[H:26].[C:1]([C:2]([C:3]([H:13])([H:14])[H:15])([C:4]([H:5])[H:6])[C:7](=[O:8])[O:9][H:16])([H:10])([H:11])[H:12]>>[C:1]([C:2]([C:3]([H:13])([H:14])[H:15])([C:4]([H:5])([H:6])[C:19]([C:18]([C:17]([H:24])([H:25])[H:26])([H:27])[H:28])([N:21]([C:22](=[O:23])[H:34])[H:33])[H:29])[C:7](=[O:8])[O:9][H:16])([H:10])([H:11])[H:12].[C:20]([H:30])([H:31])[H:32],74.68978561094264
679,[C:19]([C:20]([C:21]([H:22])[C:23](=[O:24])[O:25][H:31])([H:29])[H:30])([H:26])([H:27])[H:28].[C:1]([C:2]([C:3]([C:4]([H:14])([H:15])[H:16])([C:5](=[O:6])[N:7]([H:17])[H:18])[H:13])([H:11])[H:12])([H:8])([H:9])[H:10]>>[C:1]([C:2]([H:11])([H:12])[C:21]([C:20]([C:19]([H:26])([H:27])[H:28])([H:29])[H:30])([H:22])[C:23](=[O:24])[O:25][H:31])([H:8])([H:9])[H:10].[C:3]([C:4]([H:14])([H:15])[H:16])([C:5](=[O:6])[N:7]([H:17])[H:18])[H:13],59.23063838091912
1379,[C:10]([C:11]([O:12][C:13](=[O:14])[C:15]([H:16])[C:17]([C:18]([H:26])([H:27])[H:28])([H:24])[H:25])([H:22])[H:23])([H:19])([H:20])[H:21].[O:1]([C:2](=[O:3])[C:4](=[C:5]([H:8])[H:9])[H:7])[H:6]>>[H:9][C:15]([C:13]([O:12][C:11]([C:10]([H:19])([H:20])[H:21])([H:22])[H:23])=[O:14])([H:16])[C:17]([C:18]([H:26])([H:27])[H:28])([H:24])[H:25].[O:1]([C:2](=[O:3])[C:4](=[C:5][H:8])[H:7])[H:6],31.61564089899184
519,[C:1]([O:2][O:3])([H:4])([H:5])[H:6].[C:7]([C:8](=[O:9])[O:10][C:11](=[C:12]([H:17])[H:18])[H:16])([H:13])([H:14])[H:15]>>[C:1]([O:2][O:3][H:16])([H:4])([H:5])[H:6].[C:7]([C:8](=[O:9])[O:10][C:11]=[C:12]([H:17])[H:18])([H:13])([H:14])[H:15],34.9327815597062
1159,[C:14]([C:15]([O:16][C:17](=[O:18])[C:19](=[C:20]([H:27])[H:28])[H:26])([H:24])[H:25])([H:21])([H:22])[H:23].[C:1]([C:2]([C:3]([H:4])[C:5](=[O:6])[O:7][H:13])([H:11])[H:12])([H:8])([H:9])[H:10]>>[C:1]([C:2]([C:3]([H:4])([C:5](=[O:6])[O:7][H:13])[C:15]([C:14]([H:21])([H:22])[H:23])([H:24])[H:25])([H:11])[H:12])([H:8])([H:9])[H:10].[O:16][C:17](=[O:18])[C:19](=[C:20]([H:27])[H:28])[H:26],55.29665232729167
2043,[C:11]([C:12]([C:13]([C:14]([H:24])([H:25])[H:26])[C:15](=[O:16])[O:17][C:18]([H:27])([H:28])[H:29])([H:22])[H:23])([H:19])([H:20])[H:21].[N:1]([C:2](=[O:3])[C:4](=[C:5]([H:9])[H:10])[H:8])([H:6])[H:7]>>[N:1]([C:2]([O:3][C:13]([C:12]([C:11]([H:19])([H:20])[H:21])([H:22])[H:23])([C:14]([H:24])([H:25])[H:26])[C:15](=[O:16])[O:17][C:18]([H:27])([H:28])[H:29])[C:4](=[C:5]([H:9])[H:10])[H:8])([H:6])[H:7],27.13355653599137
2847,[C:1]([C:2]([O:3][C:4](=[O:5])[C:6](=[C:7]([H:14])[H:15])[H:13])([H:11])[H:12])([H:8])([H:9])[H:10].[O:16]([O:17])[H:18]>>[C:1]([C:2]([O:3][C:4](=[O+:5][O-:17])[C:6](=[C:7]([H:14])[H:15])[H:13])([H:11])[H:12])([H:8])([H:9])[H:10].[O:16][H:18],75.72067406203132
3737,[C:17]([C:18]([C:19]([C:20]([H:30])([H:31])[H:32])([N:21]([C:22](=[O:23])[H:34])[H:33])[H:29])([H:27])[H:28])([H:24])([H:25])[H:26].[C:1]([C:2]([C:3]([H:4])[C:5]([C:6]([H:14])([H:15])[H:16])([H:12])[H:13])([H:10])[H:11])([H:7])([H:8])[H:9]>>[C:17]([C:18]([H:27])[H:28])([H:24])([H:25])[H:26].[C:1]([C:2]([C:3]([H:4])([C:5]([C:6]([H:14])([H:15])[H:16])([H:12])[H:13])[C:19]([C:20]([H:30])([H:31])[H:32])([N:21]([C:22](=[O:23])[H:34])[H:33])[H:29])([H:10])[H:11])([H:7])([H:8])[H:9],71.62825151515426
1639,[C:15]([O:16][C:17](=[C:18]([H:23])[H:24])[H:22])([H:19])([H:20])[H:21].[C:1]([C:2]([C:3]([H:4])[H:5])([C:6](=[O:7])[N:8]([H:13])[H:14])[H:12])([H:9])([H:10])[H:11]>>[C:17](=[C:18]([H:23])[H:24])[H:22].[C:1]([C:2]([C:3]([H:4])([H:5])[O:16][C:15]([H:19])([H:20])[H:21])([C:6](=[O:7])[N:8]([H:13])[H:14])[H:12])([H:9])([H:10])[H:11],64.60031189356232
